US05843983
12(a) (2R,4R)-1-Ethoxycarbonyl-4-benzyloxy-2-{2-[4-methyl-2-(2-phenylethyl)phenoxy]ethyl}pyrrolidine
1200 mg of 4-methyl-2-(2-phenylethyl)phenol were dissolved in 10 ml of N,N-dimethylacetamide, allowed to react with 700 mg of potassium t-butoxide and 1600 mg of (2S,4R)-4-benzyloxy-2-(2-chloroethyl)-1-ethoxycarbonylpyrrolidine and extracted in the same manner as described in step (a) of Example 2. The resulting oily substance was purified by silica gel column chromatography, using a 3:1 by volume mixture of hexane and ethyl acetate as the eluent, to give 1820 mg (yield 73%) of the title compound as an oily substance.

reactant | 4-methyl-2-(2-phenylethyl)phenol | 1200 mg | CC1=CC(=C(C=C1)O)CCC1=CC=CC=C1 | C15H16O
reactant | potassium t-butoxide | 700 mg | CC(C)([O-])C.[K+]
reactant | (2S,4R)-4-benzyloxy-2-(2-chloroethyl)-1-ethoxycarbonylpyrrolidine | 1600 mg | C(C1=CC=CC=C1)O[C@@H]1C[C@H](N(C1)C(=O)OCC)CCCl | C16H22ClNO3
solvent | N,N-dimethylacetamide | 10 ml | CN(C(C)=O)C | C4H9NO
product | (2R,4R)-1-Ethoxycarbonyl-4-benzyloxy-2-{2-[4-methyl-2-(2-phenylethyl)phenoxy]ethyl}pyrrolidine | 1820 mg, yield 73% | C(C)OC(=O)N1[C@@H](C[C@H](C1)OCC1=CC=CC=C1)CCOC1=C(C=C(C=C1)C)CCC1=CC=CC=C1 | C31H37NO4
